US06949577B2
1-{[2-(Trimethylsilyl)ethoxy]methyl}-1H-imidazole-2-carboxaldehyde
Sodium hydride (463 mg, 60% dispersion in mineral oil, 11.4 mmol) was washed with hexane under an atmosphere of dry nitrogen. N,N-Dimethylformamide (15 ml) was added, the resultant mixture was stirred at room temperature and imidazole-2-carboxaldehyde (1 g, 10.4 mmol) was added portionwise. The reaction was then stirred for 1.5 hours, 2-(trimethylsilyl)ethoxy methyl chloride (2.03 ml, 11.4 mmol) was added, and the resultant mixture was then stirred at room temperature for 18 hours. The reaction was quenched by the addition of aqueous ammonium chloride solution and the resultant mixture then extracted with ethyl acetate (2×). The combined organic extracts were dried (Na2SO4), filtered, concentrated under reduced pressure and then azeotroped with xylene to give the title compound, 2.3 g, 98% yield.

reactant | Sodium hydride | 11.4 mmol, 463 mg | [H-].[Na+]
reactant | N,N-Dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | imidazole-2-carboxaldehyde | 10.4 mmol, 1 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | 2-(trimethylsilyl)ethoxy methyl chloride | 11.4 mmol, 2.03 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | hexane | CCCCCC | C6H14
product | 1-{[2-(Trimethylsilyl)ethoxy]methyl}-1H-imidazole-2-carboxaldehyde | 98% yield | C[Si](CCOCN1C(=NC=C1)C=O)(C)C | C10H18N2O2Si
